data/rdb19/train.csv
rxn,smiles,ea
916,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([O:6][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20]([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]1([N:7]([H:17])[H:18])[O:6][C:21]1([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],63.89555566722993
706,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])[H:9].[H:10][C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32],24.82502609834773
4260,[C:16]([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],59.97380137912114
963,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([O:16][C:17](=[O:18])[C:19]=[C:20]([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:26])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],24.310097490088083
1826,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[H:12][C:22]1([H:36])[C:21]([H:35])[C:20]([H:34])=[C:19]([C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])[C:24]([H:38])=[C:23]1[H:37],40.09106894576689
3658,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[O:20][C:19]([O:18][C:17]([H:24])([H:25])[H:26])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:10])[H:11])([H:7])([H:8])[H:9],27.02525627455907
1316,[C:10]([C:11]([C:12]([H:13])[H:14])([C:15](=[O:16])[O:17][H:22])[H:21])([H:18])([H:19])[H:20].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[H:6][C:12]([C:11]([C:10]([H:18])([H:19])[H:20])([C:15](=[O:16])[O:17][H:22])[H:21])([H:13])[H:14].[O:1][C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7],24.91909628052963
1354,[C:10]([C:11]([H:12])[H:13])([H:14])([H:15])[H:16].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10](=[C:11]([H:12])[H:13])([H:15])[H:16].[O:1]([C:2]([O:3][H:14])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],35.234230509609915
5556,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14]([C:15]([H:16])=[N:17][C:18](=[O:19])[H:26])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])[H:12])([H:10])[H:25])([H:7])([H:8])[H:9],43.089870006311685
4613,[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:22]([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([O:23])[H:34])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12].[C:4]1([H:5])([H:6])[C:22]([N:21]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([C:20]([H:30])([H:31])[H:32])[H:29])[H:33])([H:34])[O:23]1,38.69669997168239
387,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[O:1][O:2][C:9]([C:8]([H:3])([O:7][C:5]([C:4]([H:10])([H:11])[H:12])=[O:6])[H:13])([H:14])[H:15],27.66028713173
3945,[H:8][O:11][H:12].[O:1]([C:2]([C:3]([S:4][H:10])[H:9])([H:6])[H:7])[H:5]>>[O:1]([C:2]([C:3]([H:8])([H:9])[O:11][H:12])([H:6])[H:7])[H:5].[S:4][H:10],60.18670636008028
